US08835470B2
2-Hydroxy-2-(4-(5-(3-phenyl-4-(trifluoromethyl)isoxazol-5-yl)-1,2,4-oxadiazol-3-yl)phenyl)acetic acid (Int-Va, 20 mg, 0.046 mmol), (R/S)-2-phenylglycinonitrile hydrochloride (11.73 mg, 0.070 mmol), 4-methylmorpholine (18.76 mg, 0.185 mmol), and HATU (22.92 mg, 0.060 mmol) were added to DMF (2 mL). This was stirred for 1 h before it was purified by prep HPLC (PHENOMENEX® Luna 5u 21.2×100 mm, gradient elution with Method 1—MeOH/water containing 0.1% trifluoroacetic acid as defined above, 0% B to 100% B over 10 min, product retention=12.2 min (20 mL/min, 220 nM) to provide N-(cyano(phenyl)methyl)-2-hydroxy-2-(4-(5-(3-phenyl-4-(trifluoromethyl)isoxazol-5-yl)-1,2,4-oxadiazol-3-yl)phenyl)acetamide (8 mg, 0.013 mmol, 27.2% yield) as a mixture of diastereomers. LCMS=546.3 [M+H]+; 1H NMR (400 MHz, methanol-d4) δ ppm 8.17 (2 H, dd, J=8.36, 6.38 Hz), 7.32-7.77 (12 H, m), 6.18 (1 H, d, J=7.04 Hz), 5.24 (1 H, d, J=8.14 Hz); HPLC peak RT=10.9 min (Method A).

reactant | 2-Hydroxy-2-(4-(5-(3-phenyl-4-(trifluoromethyl)isoxazol-5-yl)-1,2,4-oxadiazol-3-yl)phenyl)acetic acid | 0.046 mmol, 20 mg | OC(C(=O)O)C1=CC=C(C=C1)C1=NOC(=N1)C1=C(C(=NO1)C1=CC=CC=C1)C(F)(F)F | C20H12F3N3O5
reactant | 4-methylmorpholine | 0.185 mmol, 18.76 mg | CN1CCOCC1 | C5H11NO
reactant | HATU | 0.060 mmol, 22.92 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DMF | 2 mL | CN(C)C=O | C3H7NO
product | N-(cyano(phenyl)methyl)-2-hydroxy-2-(4-(5-(3-phenyl-4-(trifluoromethyl)isoxazol-5-yl)-1,2,4-oxadiazol-3-yl)phenyl)acetamide | 0.013 mmol, 8 mg, 27.2% yield | C(#N)C(NC(C(C1=CC=C(C=C1)C1=NOC(=N1)C1=C(C(=NO1)C1=CC=CC=C1)C(F)(F)F)O)=O)C1=CC=CC=C1 | C28H18F3N5O4
